US07456296B2
The Perindopril benzyl ester (2.9 g, 6.33 mmoles) dissolved in ethyl alcohol (15 ml) hydrogenated using 10% Palladium on carbon (0.29 g), under 45-50 psi hydrogen pressure for 2.5-3 hrs. The reaction was performed at 25-30° C. After completion of the reaction, the reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under reduced pressure to afford Perindopril as a viscous oil.

reactant | Perindopril benzyl ester | 6.33 mmoles, 2.9 g | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@@H]1C(=O)OCC3=CC=CC=C3 | C26H38N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.29 g | [Pd] | Pd
product | Perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
